US05624943
Under the conditions of example 16K, 6.5 g of 3-(3-methoxy-6-methoxycarbonyl-2-pyridyl)-propionic acid methyl ester in 60 ml of 48% hydrobromic acid is reacted and worked up. 4.1 g of 3-(6-carboxy-3-hydroxy-2-pyridyl)-propionic acid of melting point 210°-212° C. is obtained.

reactant | 3-(3-methoxy-6-methoxycarbonyl-2-pyridyl)-propionic acid methyl ester | 6.5 g | COC(CCC1=NC(=CC=C1OC)C(=O)OC)=O | C12H15NO5
solvent | hydrobromic acid | 60 ml | Br | BrH
product | 3-(6-carboxy-3-hydroxy-2-pyridyl)-propionic acid | 4.1 g | C(=O)(O)C1=CC=C(C(=N1)CCC(=O)O)O | C9H9NO5
